US07544835B2
Ethyl 3-(3-hydroxyphenyl)-2-ethylpropanoate
Using 3-benzyloxybenzaldehyde, ethyl 2-(diethoxyphosphoryl)-2-ethylacetate, the title compound was obtained in the same manner as described in Production examples 46a) and 46b).

reactant | 3-benzyloxybenzaldehyde | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1 | C14H12O2
reactant | ethyl 2-(diethoxyphosphoryl)-2-ethylacetate | C(C)OP(=O)(OCC)C(C(=O)OCC)CC | C10H21O5P
product | Ethyl 3-(3-hydroxyphenyl)-2-ethylpropanoate | OC=1C=C(C=CC1)CC(C(=O)OCC)CC | C13H18O3
